* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\combined_sch\combined_schematicV2.asc
XU3 N030 N028 +5 -5 N025 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N025 N028 300K
R12 N030 0 10K
R10 N030 N029 100K
XU1 N033 N027 +5 -5 N016 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N033 0.1µ
R1 N033 Tpre 10K
R15 N043 Tpost 10K
R3 N016 N027 10K
R11 N030 N018 100K
XU2 N032 N026 +5 -5 N029 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N026 D
D2 P001 N032 D
R7 N029 N032 1Meg
R8 0 N032 700K
R5 P001 0 100K
C2 P001 N016 0.001µ
R6 N029 N026 22K
C3 N026 0 100n
R13 0 N028 10K
D3 N025 P002 D
R9 N030 -5 100K
XU5 N042 N037 +5 -5 N040 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N037 D
D5 P003 N042 D
R21 N040 N042 1Meg
R22 0 N042 700K
R19 P003 0 100K
R20 N040 N037 22K
C6 N037 0 100n
C5 P003 N018 0.001µ
XU6 N041 N039 +5 -5 N035 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R28 N035 N039 300K
R26 N041 0 10K
R24 N041 N040 100K
R25 N041 N016 100K
R27 0 N039 10K
D6 N035 P004 D
R23 N041 -5 100K
R33 Sine N024 30K
R31 N024 P002 15K
R32 N034 N024 15K
R4 N016 N033 1Meg
R2 N027 0 1Meg
XU4 N043 N038 +5 -5 N018 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 0 N043 0.1µ
R17 N018 N038 10K
R18 N018 N043 1Meg
R16 N038 0 1Meg
XU8 0 N024 +5 -5 Sine level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R30 N034 N036 10K
XU7 0 N036 +5 -5 N034 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R29 N036 P004 10K
C7 Sine N024 0.047µ
XU9 N017 N011 +5 -5 N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R45 N008 N011 150K
R43 N017 0 10K
R41 N017 N016 100K
R44 0 N011 10K
R40 N017 N010 100K
R39 0 N010 100K
R38 N010 -5 50K
D7 N008 Sombrero D
R48 N012 N006 120K
XU10 N015 N006 +5 -5 N012 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R46 N006 Sombrero 100K
R47 N015 Sombrero 100K
Q2 N015 N023 0 0 NPN
R51 Hebbian N007 35K
R49 N007 N012 15K
R50 0 N007 15K
XU11 0 N007 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N007 0.047µ
R71 N023 Sine 1K
V1 +5 0 5
V2 0 -5 5
R42 N017 N018 100K
XU12 0 N004 +5 -5 N005 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU13 0 N021 +5 -5 N022 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R34 N005 N004 R=((1-V(mod))*100K+1m)
R35 N004 Sombrero 100K
R36 N021 N020 100K
R37 N022 N021 R=(V(mod)*100K+1m)
XU14 0 N009 +5 -5 LearnOut level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R52 LearnOut N009 100K
R53 N009 N005 200K
R54 N009 N022 100K
V5 mod 0 PULSE(0 0 0 0 0 0)
XU15 0 N019 +5 -5 N020 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R56 N020 N019 100K
R57 N019 Hebbian 100K
XU16 N001 N001 N001 MEM_KNOWM Ron=50k Roff=150k Voff=1 Von=1 TAU=0.0001
R60 N056 N047 10K
XU18 N054 N045 +5 -5 N051 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D8 0 N045 D
D9 P005 N054 D
R61 N051 N054 0.1Meg
R62 0 N054 500K
R63 P005 0 100K
R64 N051 N045 150K
C9 N045 0 10n
C10 P005 N053 0.001µ
XU19 N056 N048 +5 -5 N055 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C11 0 N056 0.68µ
R65 N055 N048 50K
R66 N048 0 1Meg
V8 InSpike 0 PULSE(0 0.5 0 1n 1n 3m 10m)
XU20 N055 N050 +5 -5 N053 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU21 N052 N044 +5 -5 N049 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D10 0 N044 D
D11 P006 N052 D
R67 N049 N052 0.1Meg
R68 0 N052 500K
R69 P006 0 100K
R70 N049 N044 75K
C12 N044 0 22n
C13 P006 N051 0.001µ
D12 N049 P007 D
R72 Tpost P007 12K
R73 0 Tpost 25K
R74 N055 N056 1000
V9 N050 0 1
R77 N057 Tpre 100K
XU17 ctrl N013 N002 LearnOut -15 0 ctrl NC_01 N003 0 +15 ADG1236
V6 +15 0 15
V7 0 -15 15
XU23 InSpike N014 +5 -5 Tpre level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R80 N014 0 100K
XU24 N031 LearnOut +5 -5 ctrl level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R81 ctrl N031 100K
R82 0 N031 10K
R55 Tpre N014 100K
XU22 N057 N046 +5 -5 N047 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R58 N047 N046 200K
XU25 N084 N082 +5 -5 N078 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R59 N078 N082 300K
R75 N084 0 10K
R76 N084 N083 100K
XU26 N086 N080 +5 -5 N069 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C14 0 N086 0.1µ
R78 N086 Tpre1 10K
R79 N096 Tpost 10K
R83 N069 N080 10K
R84 N084 N071 100K
XU27 N085 N079 +5 -5 N083 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D13 0 N079 D
D14 P008 N085 D
R85 N083 N085 1Meg
R86 0 N085 700K
R87 P008 0 100K
C15 P008 N069 0.001µ
R88 N083 N079 22K
C16 N079 0 100n
R89 0 N082 10K
D15 N078 P009 D
R90 N084 -5 100K
XU28 N095 N090 +5 -5 N093 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D16 0 N090 D
D17 P010 N095 D
R91 N093 N095 1Meg
R92 0 N095 700K
R93 P010 0 100K
R94 N093 N090 22K
C17 N090 0 100n
C18 P010 N071 0.001µ
XU29 N094 N092 +5 -5 N088 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R95 N088 N092 300K
R96 N094 0 10K
R97 N094 N093 100K
R98 N094 N069 100K
R99 0 N092 10K
D18 N088 P011 D
R100 N094 -5 100K
R101 Sine N077 30K
R102 N077 P009 15K
R103 N087 N077 15K
R104 N069 N086 1Meg
R105 N080 0 1Meg
XU30 N096 N091 +5 -5 N071 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C19 0 N096 0.1µ
R106 N071 N091 10K
R107 N071 N096 1Meg
R108 N091 0 1Meg
XU31 0 N077 +5 -5 Sine level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R109 N087 N089 10K
XU32 0 N089 +5 -5 N087 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R110 N089 P011 10K
C20 Sine N077 0.047µ
XU33 N070 N066 +5 -5 N062 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R111 N062 N066 150K
R112 N070 0 10K
R113 N070 N069 100K
R114 0 N066 10K
R115 N070 N065 100K
R116 0 N065 100K
R117 N065 -5 50K
D19 N062 Sombrero1 D
R118 N067 N060 120K
XU34 N068 N060 +5 -5 N067 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R119 N060 Sombrero1 100K
R120 N068 Sombrero1 100K
Q1 N068 N076 0 0 NPN
R121 Hebbian1 N061 35K
R122 N061 N067 15K
R123 0 N061 15K
XU35 0 N061 +5 -5 Hebbian1 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C21 Hebbian1 N061 0.047µ
R124 N076 Sine 1K
R125 N070 N071 100K
XU36 0 N058 +5 -5 N059 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU37 0 N074 +5 -5 N075 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R126 N059 N058 R=((1-V(mod))*100K+1m)
R127 N058 Sombrero1 100K
R128 N074 N073 100K
R129 N075 N074 R=(V(mod)*100K+1m)
XU38 0 N063 +5 -5 LearnOut1 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R130 LearnOut1 N063 100K
R131 N063 N059 200K
R132 N063 N075 100K
XU39 0 N072 +5 -5 N073 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R133 N073 N072 100K
R134 N072 Hebbian1 100K
V3 InSpike1 0 PULSE(0 0.5 0 1n 1n 3m 10m)
XU40 InSpike1 N064 +5 -5 Tpre1 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R135 N064 0 100K
XU41 N081 LearnOut1 +5 -5 ctrl level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R136 ctrl N081 1Meg
R137 P012 N081 10K
R138 Tpre1 N064 100K
R139 N057 Tpre1 100K
R140 N057 0 100K
R141 N046 0 100K
V4 P012 0 0.1
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.1 0 1000u
.lib adg1236.cir
.lib memristor_with_state.sub
.lib UniversalOpamps2.sub
.backanno
.end
